US07842696B2
DIPEA (233 mg, 1.80 mmol) was added to a stirred solution of [(biphenyl-4-carbonyl)-amino]-acetic acid (161 mg, 0.63 mmol) in DMF (5 mL), HOBt (85.6 mg, 0.63 mmol) and EDCI.HCl (276 mg, 1.44 mmol) at room temperature. After 2 minutes 2-(piperazine-1-carbonyl)-benzoic acid methyl ester (143 mg, 0.58 mmol) was and the resulting mixture was stirred at room temperature overnight. The mixture was then diluted with cold water and the product extracted with ethyl acetate. The organic layer was separated, washed with 10% HCl solution, NaHCO3 solution, and brine, dried over sodium sulphate and concentrated to afford 106 mg (37.9% yield) of 2-(4-{2-[(biphenyl-4-carbonyl)-amino]-acetyl}-piperazine-1-carbonyl)-benzoic acid methylester, LC-MS purity: 98.96%, 1H NMR: (DMSO) δ 8.6 (bs, 1H), 7.9 (d, 3H), 7.8-7.6 (m, 5H), 7.54 (t, 1H), 7.54-7.46 (t, 2H), 7.44-7.36 (t, 2H), 4.1 (d, 1H), 3.8 (s, 3H), 3.6 (d, 4H), 3.4 (bs, 2H), 3.1 (bd, 2H).

reactant | DIPEA | 1.80 mmol, 233 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | [(biphenyl-4-carbonyl)-amino]-acetic acid | 0.63 mmol, 161 mg | C1(=CC=C(C=C1)C(=O)NCC(=O)O)C1=CC=CC=C1 | C15H13NO3
reactant | HOBt | 0.63 mmol, 85.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 1.44 mmol, 276 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-(piperazine-1-carbonyl)-benzoic acid methyl ester | 0.58 mmol, 143 mg | COC(C1=C(C=CC=C1)C(=O)N1CCNCC1)=O | C13H16N2O3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-{2-[(biphenyl-4-carbonyl)-amino]-acetyl}-piperazine-1-carbonyl)-benzoic acid methylester | 106 mg, 37.9% yield | COC(C1=C(C=CC=C1)C(=O)N1CCN(CC1)C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O)=O | C28H27N3O5
